Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin / 
Bactrim
 
Attending: ___.
 
Chief Complaint:
elective admission for Endovascular repair of thoracic aortic 
aneurysm, pre-admitted for prednisone administration to avoid 
contrast reaction (History of anaphylaxis)
 
Major Surgical or Invasive Procedure:
___: Endovascular repair of thoracic aortic aneurysm with a 
Cook Alpha device.

 
History of Present Illness:
___ with known thoracic and abdominal aortic aneurysm
presenting for pre-medication prior to planned endovascular
repair tomorrow, ___. She has a history of an anaphylactic
reaction to iodine contrast. 

The patient has a history of AML, status-post allogenic stem 
cell
transplant in ___ complicated by graft versus host disease and
is followed by hematology. EVAR procedure had been initially
planned for ___, but delayed due to ongoing hematology,
notable for JAK2 mutation in the setting of thrombocytosis. The
decision was made to delay elective aneurysm repair in the
setting of increased risk for bleeding and clotting due to
platelet dysfunction. She has continued on Hydrea with regular
platelet count monitoring. Recent outpatient platelet counts 
have
been in the 300-400k range. The patient was most recently seen 
in
___ clinic on ___ and cleared to proceed with
surgery.

She is also followed by cardiology for atrial fibrillation and
CAD, and was cleared for surgery in ___. It was
recommended that she continue aspirin, statin, beta-blocker and
anti-coagulation, as permissable. Her last dose of Xarelto was
___. Recent ECHO shows an EF of 35%. 

Her home medications were reviewed; of note she has been taking
Tamiflu since ___ as prophylaxis; her daughter was diagnosed
with the flu earlier this week. The patient denies any flu-like
sypmtoms. 

 
Past Medical History:
.
PAST ONCOLOGIC HISTORY:  
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- repeat bone marrow biopsy showed acute erythroleukemia  
- admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (LIMA-LAD) ___  
- complicated by GVHD of the skin and lungs, on Prednisone 7.5mg 

currently  
.  
OTHER MEDICAL HISTORY:  
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (LIMA-LAD) 
___  
- Afib  
- Diverticulitis, hx of perforated diverticulum ___ ___ 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___  
- CHF with EF 40-45%  
Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus  
- Diverticulosis  
- Occasional bronchospasm  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  
- basal cell carcinoma-s/p electrodessication and curettage on  
___  
- tonsillectomy at the age of ___;  
- D&C for question of some polyps back in ___  
- Hospitalization for pneumonia ___ - ___            
                          
- ADRENAL INSUFFICIENCY                                          
 

.
 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GEN: AOx3, NAD
CV: regular rate, +S1/S2, (-)murmur appreciated
PULM: CTAB, breathing comfortably on room air 
GI: soft, NT, ND, no palpable masses
EXT: trace edema of ankles, WWP; palpable femoral and DP pulses
bilaterally; moving all extremities spontaneously  

DISCHARGE PHYSICAL EXAM:
GEN: AOx3, NAD
CV: regular rate, +S1/S2, (-)murmur appreciated
PULM: CTAB, breathing comfortably on room air 
GI: soft, NT, ND, no palpable masses
EXT: trace edema of ankles, WWP; 
R: p/-/ATd/- L:p/-/d/- (postop)
 
Pertinent Results:
___ 04:34AM BLOOD WBC-13.4* RBC-3.81* Hgb-10.9* Hct-33.8* 
MCV-89 MCH-28.6 MCHC-32.2 RDW-20.9* RDWSD-66.2* Plt ___
___ 11:10AM BLOOD WBC-13.9*# RBC-4.35 Hgb-12.6 Hct-38.4 
MCV-88 MCH-29.0 MCHC-32.8 RDW-21.5* RDWSD-67.1* Plt ___
___ 04:34AM BLOOD Plt ___
___ 11:10AM BLOOD Plt ___
___ 04:34AM BLOOD Glucose-135* UreaN-14 Creat-1.0 Na-132* 
K-4.5 Cl-99 HCO3-22 AnGap-16
___ 11:10AM BLOOD Glucose-246* UreaN-14 Creat-1.0 Na-134 
K-5.2* Cl-101 HCO3-21* AnGap-17
___ 04:34AM BLOOD Calcium-8.5 Phos-3.8 Mg-2.2
___ 11:10AM BLOOD Phos-3.6 Mg-2.8*
 
Brief Hospital Course:
Mrs ___ was pre-admitted to ___ 
___ on ___ to get premedicated with prednisone in 
anticipation of elective TEVAR on ___ and the use of contrast 
(history of anaphylaxis to IV contrast). She tolerated the 
procedure well without evidence of rash or anaphylaxis. Once she 
was tolerating a diet, voiding spontaneously and ambulating she 
was discharged home with medications and instructions.
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 3 mg PO DAILY 
2. umeclidinium 62.5 mcg/actuation inhalation DAILY:PRN 
3. Hydroxyurea 500 mg PO BID 
4. LORazepam 1 mg PO Q4H:PRN nausea, anxiety, insomnia 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. MetFORMIN (Glucophage) 500 mg PO BID 
7. Metoprolol Tartrate 25 mg PO DAILY:PRN as needed for 
symptomatic palpitations 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
9. Rivaroxaban 20 mg PO DAILY 
10. Famotidine 20 mg PO BID:PRN dyspepsia 
11. Atorvastatin 80 mg PO QPM 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Montelukast 10 mg PO DAILY 
14. OSELTAMivir 75 mg PO DAILY 
15. Acyclovir 400 mg PO Q12H 
16. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
17. Azithromycin 250 mg PO MWF 
18. esomeprazole magnesium 20 mg oral BID 
19. Calcium Carbonate 1500 mg PO DAILY 
20. Aspirin 81 mg PO DAILY 
21. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
22. Levothyroxine Sodium 25 mcg PO DAILY 
23. Cyanocobalamin 500 mcg PO DAILY 
24. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every ___ Disp #*10 
Tablet Refills:*0 
2.  LORazepam 0.5 mg PO Q4H:PRN nausea, anxiety, insomnia  
3.  Acetaminophen 650 mg PO TID  
4.  Acyclovir 400 mg PO Q12H  
5.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Azithromycin 250 mg PO MWF  
9.  Calcium Carbonate 1500 mg PO DAILY  
10.  Cyanocobalamin 500 mcg PO DAILY  
11.  esomeprazole magnesium 20 mg oral BID  
12.  Famotidine 20 mg PO BID:PRN dyspepsia  
13.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies  

14.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
15.  Hydroxyurea 500 mg PO BID  
16.  Levothyroxine Sodium 25 mcg PO DAILY  
17.  MetFORMIN (Glucophage) 500 mg PO BID  
18.  Metoprolol Succinate XL 100 mg PO DAILY  
19.  Metoprolol Tartrate 25 mg PO DAILY:PRN as needed for 
symptomatic palpitations  
20.  Montelukast 10 mg PO DAILY  
21.  PredniSONE 3 mg PO DAILY  
22.  Rivaroxaban 20 mg PO DAILY  
23.  umeclidinium 62.5 mcg/actuation inhalation DAILY:PRN  
24.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Saccular aneurysm of the descending thoracic aorta.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after 
placement of a stent graft in your aorta to strengthen the part 
of the artery that was weakened by an aneurysm. You were 
premedicated with prednisone due to your dye allergy. To perform 
this procedure, small punctures were made in the arteries on 
both sides of your groin.  You tolerated the procedure well and 
are now ready to be discharged from the hospital.   Please 
follow the recommendations below to ensure a speedy and 
uneventful recovery.

 

Division of Vascular and Endovascular Surgery

Endovascular Thoracic Abdominal Aortic Aneurysm Repair Discharge 
Instructions

 

PLEASE NOTE: After endovascular aortic repair (TEVAR), it is 
very important to have regular appointments (every ___ months) 
for the rest of your life.  These appointments will include a 
MRI(“Magnetic resonance Imaging”) scan and/or ultrasound of your 
graft.  If you miss an appointment, please call to reschedule. 

WHAT TO EXPECT:

·     Bruising, tenderness, and a sensation of fullness at the 
groin puncture sites (or incisions) is normal and will go away 
in one-two weeks

CARE OF THE GROIN PUNCTURE SITES:

·     It is normal to have mild swelling, a small bruise, or 
small amounts of drainage at the groin puncture sites.  In two 
weeks, you may feel a small, painless, pea sized knot at the 
puncture sites.  This too is normal.  Male patients may notice 
swelling in the scrotum.  The swelling will get better over 
one-two weeks.

·     Look at the area daily to see if there are any changes.  
Be sure to report signs of infection.  These include: increasing 
redness; worsening pain; new or increasing drainage, or drainage 
that is white, yellow, or green; or fever of 101.5 or more.  (If 
you have taken aspirin, Tylenol, or other fever reducing 
medicine, wait at least ___ hours after taking it before you 
check your temperature in order to get an accurate reading.)

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)

·     If you have sudden, severe bleeding or swelling at either 
of the groin puncture sites: 

-Lie down, keep leg straight and apply (or have someone apply) 
firm pressure to area for ___ minutes with a gauze pad or 
clean cloth. 

-Once bleeding has stopped, call your surgeon to report what 
happened.   

-If bleeding does not stop, call ___ for transfer to closest 
Emergency Room. 

·     You may shower 48 hours after surgery.  Let the soapy 
water run over the puncture sites, then rinse and pat dry.  Do 
not rub these sites and do not apply cream, lotion, ointment or 
powder. 

·     Wear loose-fitting pants and clothing as this will be less 
irritating to the groin puncture sites. 

MEDICATIONS

·     Take aspirin daily.  Aspirin helps prevent blood clots 
that could form in your repaired artery. 

·     It is very important that you never stop taking aspirin or 
other blood thinning medicines-even for a short while- unless 
the surgeon who repaired your aneurysm tells you it is okay to 
stop.   Do not stop taking them, even if another doctor or nurse 
tells you to, without getting an okay from the surgeon who first 
prescribed them. 

·     You will be given prescriptions for any new medication 
started during your hospital stay.

·     Before you go home, your nurse ___ give you information 
about new medication and will review all the medications you 
should take at home.  Be sure to ask any questions you may have. 
 If something you normally take or may take is not on the list 
you receive from the nurse, please ask if it is okay to take it. 


PAIN MANAGEMENT

·     Most patients do not have much pain following this 
procedure.   Your puncture sites may be a little sore.  This 
will improve daily. If it is getting worse, please let us know.

·     You will be given instructions about taking pain medicine 
if you need it.

ACTIVITY

·     You must limit activity to protect the puncture sites in 
your groin.  For ONE WEEK:

-Do not drive

-Do not swim, take a tub bath or go in a Jacuzzi or hot tub

-Do not lift, push, pull or carry anything heavier than five 
pounds

-Do not do any exercise or activity that causes you to hold your 
breath or bear down with your abdominal muscles.

-Do not resume sexual activity

·     Discuss with your surgeon when you may return to other 
regular activities, including work.  If needed, we will give you 
a letter for your workplace. 

·     It is normal to feel weak and tired.  This can last 
six-eight weeks, but should get better day by day.   You may 
want to have help around the house during this time.

·     ___ push yourself too hard during your recovery.  Rest 
when you feel tired.  Gradually return to normal activities over 
the next month.

·     We encourage you to walk regularly. Walking, especially 
outdoors in good weather is the best exercise for circulation.  
Walk short distances at first, even in the house, then do a 
little more each day.

·     It is okay to climb stairs.  You may need to climb them 
slowly and pause after every few steps. 

 

DIET

·     It is normal to have a decreased appetite.  Your appetite 
will return over time.

·     Follow a well balance, heart-healthy diet, with moderate 
restriction of salt and fat. 

·     Eat small, frequent meals with nutritious food options 
(high fiber, lean meats, fruits, and vegetables) to maintain 
your strength and to help with wound healing.

BOWEL AND BLADDER FUNCTION

·     You should be able to pass urine without difficulty.  Call 
you doctor if you have any problems urinating, such as burning, 
pain, bleeding, going too often, or having trouble urinating or 
starting the flow of urine.   Call if you have a decrease in the 
amount of urine. 

·     You may experience some constipation after surgery because 
of pain medicine and changes in activity.  Increasing fluids and 
fiber in your diet and staying active can help.  To relief 
constipation, you may talk a mild laxative.   Please take to 
your pharmacist for advice about what to take. 

SMOKING

·     If you smoke, it is very important that you STOP.   
Research shows smoking makes vascular disease worse. This could 
increase the chance of a blockage in your new graft.  Talk to 
your primary care physician about ways to quit smoking. 

 
Followup Instructions:
___